US07973050B2
3,3-Diethoxypropylamine (210.7 g, 1.43 mol) was added in portions to the solution of 2,2-dimethyl-5-(methylsulfanyl-thiophene-3-ylamino-methylene)-[1,3]dioxane-4,6-dione (407.3 g, 1.36 mol) in dichloromethane (1.7 L) and methanol (0.36 L) over 60 min, while the reaction temperature was kept under 25° C. with a water bath. After stirring for 1.5 h at room temperature, the reaction mixture was diluted with dichloromethane (0.8 L). The organic layer was separated and washed with aqueous ammonium chloride solution (400 mL, made of 200 mL of sat. NH4Cl and 200 mL of water), brine (300 mL) and dried over magnesium sulfate. Concentration of the reaction mixture under reduced pressure afforded a dark oil. Xylenes (500 ml) were added and the mixture concentrated under reduced pressure to give the intermediate 5-((3,3-Diethoxypropylamino)(thiophene-3-ylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione. The resultant dark oil was used directly in next step without further purification. 1H NMR (400 MHz, CDCl3) δ 1.65 (m, 6H), 1.73 (s, 6H), 1.78 (m, 2H), 2.98 (q, 2H, J=6.4 Hz), 3.45 (m, 2H), 3.60 (m, 2H), 4.50 (t, 1H, J=5.2 Hz), 6.98 (dd, 1H, J=1.6, 5.2 Hz), 7.05 (dd, 1H, J=1.2, 3.2 Hz), 7.33 (dd, 1H, J=3.2, 5.2 Hz), 10.2 (s, 1H), 11.3 (s, 1H).

reactant | 3,3-Diethoxypropylamine | 1.43 mol, 210.7 g | C(C)OC(CCN)OCC | C7H17NO2
reactant | 2,2-dimethyl-5-(methylsulfanyl-thiophene-3-ylamino-methylene)-[1,3]dioxane-4,6-dione | 1.36 mol, 407.3 g | CC1(OC(C(C(O1)=O)=C(NC1=CSC=C1)SC)=O)C | C12H13NO4S2
solvent | dichloromethane | 1.7 L | ClCCl | CH2Cl2
solvent | methanol | 0.36 L | CO | CH4O
solvent | dichloromethane | 0.8 L | ClCCl | CH2Cl2
product | 5-((3,3-Diethoxypropylamino)(thiophene-3-ylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | C(C)OC(CCNC(=C1C(OC(OC1=O)(C)C)=O)NC1=CSC=C1)OCC | C18H26N2O6S
